US09029536B2
A) 3-Fluoro-N-methoxy-N-methylpyridine-2-carboxamide
To a suspension of 3-fluoropicolinic acid (17.7 g) in THF (300 mL) was added CDI (22.4 g) at room temperature, and the mixture was stirred at room temperature for 30 min and heated to 50° C. After stirring at 50° C. for 1 h, the mixture was cooled to room temperature. To the mixture were added N,O-dimethylhydroxylamine hydrochloride (18.4 g) and DIPEA (32.9 mL) at room temperature, and the mixture was stirred at room temperature for 12 h. The mixture was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (AcOEt) to give the title compound (21.8 g).

reactant | 3-fluoropicolinic acid | 17.7 g | FC=1C(=NC=CC1)C(=O)O | C6H4FNO2
reactant | CDI | 22.4 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | N,O-dimethylhydroxylamine hydrochloride | 18.4 g | Cl.CNOC
reactant | DIPEA | 32.9 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 3-Fluoro-N-methoxy-N-methylpyridine-2-carboxamide | 21.8 g | FC=1C(=NC=CC1)C(=O)N(C)OC | C8H9FN2O2
